US03974186
2,6-BIS(2-MORPHOLINOETHOXY)ANTHRAQUINONE DIHYDROCHLORIDE
This compound was prepared by the method of Example 3, with the exception that toluene was used as the reaction medium rather than chlorobenzene, from 36 g. (0.15 mole) of 2,6-dihydroxyanthraquinone, 100 g. (0.54 mole of N-(2-chloroethyl) morpholine hydrochloride, 66g. (1.0 mole) of potassium hydroxide pellets (85%), 400 ml. of toluene and 100 ml. of water. The dihydrochloride salt was recrystallized twice from isopropanol with enough water added to effect solution. The pure compound melted with decomposition at 288°-290°C.; γmax (H2O) 273 mμ, E1cm1% 778.

reactant | 2,6-dihydroxyanthraquinone | 0.15 mole | OC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)O)=O | C14H8O4
reactant | N-(2-chloroethyl) morpholine hydrochloride | 0.54 mole | Cl.ClCCN1CCOCC1
reactant | potassium hydroxide | 1.0 mole | [OH-].[K+]
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 2,6-BIS(2-MORPHOLINOETHOXY)ANTHRAQUINONE DIHYDROCHLORIDE | Cl.Cl.O1CCN(CC1)CCOC1=CC=2C(C3=CC=C(C=C3C(C2C=C1)=O)OCCN1CCOCC1)=O | InChI=1S/C26H30N2O6.2ClH/c29-25-21-3-1-19(33-15-9-27-5-11-31-12-6-27)17-23(21)26(30)22-4-2-20(18-24(22)25)34-16-10-28-7-13-32-14-8-28;;/h1-4,17-18H,5-16H2;2*1H
